US07144906B2
1-(o-Toluoylamino)-2-propanol
To 100 ml of a solution of 5.83 g of 1-amino-2-propanol in toluene, 18.0 ml of triethylamine was added, and 10 ml of a solution of 10.00 g of o-toluoyl chloride in toluene was added dropwise slowly with stirring under ice-cooling. After 30-minute-stirring, the ice-bath was removed, and the mixture was stirred for additional 1 hour at room temperature. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The extract was washed with 10% hydrochloric acid, ice-cold water and saturated aqueous sodium hydrogen carbonate solution sequentially, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was crystallized by addition of diethyl ether to provide 7.25 g of the objective compound as colorless crystals. M.p. 78-81° C.

reactant | 1-amino-2-propanol | 5.83 g | NCC(C)O | C3H9NO
reactant | o-toluoyl chloride | 10.00 g | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | triethylamine | 18.0 ml | C(C)N(CC)CC | C6H15N
product | 1-(o-Toluoylamino)-2-propanol | 7.25 g | C=1(C(=CC=CC1)C(=O)NCC(C)O)C | C11H15NO2
